US06518283B1
Ethyl (S)-2-(N-t-butyloxycarbonylamino)-3-[4-(isoquinolin-1-ylamino)phenyl]propanoate
A stirred solution of ethyl (S)-3-(4-aminophenyl)-2-(N-t-butyloxycarbonylamino)propanoate (3.08 g, 10.0 mmol), 1-chloroisoquinoline (1.80 g, 11.0 mmol) and N,N-diisopropylethylamine (1.42 g, 1.91 ml, 11.0 mmol) in 2-ethoxyethanol (1.0 ml) was heated at 130° for 4 h. The volatiles were removed in vacuo and the residue partitioned between EtOAc (120 ml) and saturated aqueous NaHCO3 (50 ml). The phases were separated and the aqueous layer was re-extracted with EtOAc (80 ml). The combined organic extracts were washed with brine (30 ml), dried (MgSO4) and evaporated in vacuo. The obtained dark oil was chromatographed (silica; 20-30% EtOAc/hexane) to afford the title compound as a pink oil which crystallised on standing (2.78 g, 64%). δH (CDCl3) 8.07 (1H, d, J 5.8 Hz), 7.93 (1H, d, J 8.4 Hz), 7.72 (1H, d, J 7.5 Hz), 7.63 (1H, d), 7.61 (2H, d, J 8.5 Hz), 7.51 (1H, t, J 6.8 Hz), 7.23 (1H, br s), 7.10 (1H, br s), 7.10 (2H, d, J 6.8 Hz), 5.02 (1H, br d, J 8.0 Hz), 4.54 (1H, br m), 4.16 (2H, t, J 7.1 Hz), 3.05 (2H, br m), 1.43 (9H, s), 1.25 (3H, t, J 7.1 Hz); m/z (ES+, 60V) 436 (MH+).

reactant | ethyl (S)-3-(4-aminophenyl)-2-(N-t-butyloxycarbonylamino)propanoate | 10.0 mmol, 3.08 g | NC1=CC=C(C=C1)C[C@@H](C(=O)OCC)NC(=O)OC(C)(C)C | C16H24N2O4
reactant | 1-chloroisoquinoline | 11.0 mmol, 1.80 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | N,N-diisopropylethylamine | 11.0 mmol, 1.91 ml, 1.42 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-ethoxyethanol | 1.0 ml | C(C)OCCO | C4H10O2
product | Ethyl (S)-2-(N-t-butyloxycarbonylamino)-3-[4-(isoquinolin-1-ylamino)phenyl]propanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)CC1=CC=C(C=C1)NC1=NC=CC2=CC=CC=C12 | C25H29N3O4
